US07868014B2
Add borane-THF complex (3.34 mL, 3.34 mmol) slowly to an ice-methanol cooled bath solution of 5-chloro-2-trifluoromethyl-benzoic acid (500 mg, 2.23 mmol) in THF (2 mL). Stir overnight at room temperature. Add water (1 mL) and solid potassium carbonate. Filter and concentrate to give an oil residue. Chromatograph on silica gel, eluting with 10:90 to 1:1 ethyl acetate:hexanes to give (5-chloro-2-trifluoromethylphenyl)-methanol as a white solid (347 mg, 75%). 1H NMR (400 MHz, MeOH-d4) δ 7.84 (s, 1H), 7.68 (d, 1H, J=8.4 Hz), 7.48 (d, 1H, J=8.4 Hz), 4.81 (s, 2H).

reactant | 5-chloro-2-trifluoromethyl-benzoic acid | 2.23 mmol, 500 mg | ClC=1C=CC(=C(C(=O)O)C1)C(F)(F)F | C8H4ClF3O2
reactant | water | 1 mL | O | H2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (5-chloro-2-trifluoromethylphenyl)-methanol | 347 mg, 75% | ClC=1C=CC(=C(C1)CO)C(F)(F)F | C8H6ClF3O
